US07122674B2
Stage 1: 5-benzyloxy-1-(4-fluorobenzyl)indole
The KOH pellets are added to the mixture of DMF and water, and the mixture is vigorously stirred for 5 minutes. After addition of the 5-benzyloxyindole, the mixture is stirred at room temperature for a further 45 minutes. Then, at an internal temperature of 10–20° C., 4-fluorobenzyl chloride is added dropwise while stirring. The mixture is then stirred at room temperature for a further 90 minutes. The mixture is cooled to 10° C., and 300 ml of water are added. It is cooled during this so that the internal temperature does not exceed 20° C. The mixture is stirred for 2 hours, and then the precipitate is filtered off with suction, washed with water and dried at 30° C. initially in circulating air and then in vacuo. The resulting product is very pure so that no additional purification operation is necessary.

reactant | KOH | [OH-].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 5-benzyloxyindole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | water | 300 ml | O | H2O
product | 5-benzyloxy-1-(4-fluorobenzyl)indole | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)F | C22H18FNO
